US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 1-decyl-4-(2,5-difluoro-4-methoxyphenyl)piperazine (176 mg). The resulting crude product was purified on TLC (developer, chloroform: methanol=19:1) to provide 4-(4-decylpiperazin-1-yl)-2,5-difluorophenol (67 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 1-decyl-4-(2,5-difluoro-4-methoxyphenyl)piperazine | 176 mg | C(CCCCCCCCC)N1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C21H34F2N2O
product | 4-(4-decylpiperazin-1-yl)-2,5-difluorophenol | 67 mg | C(CCCCCCCCC)N1CCN(CC1)C1=CC(=C(C=C1F)O)F | C20H32F2N2O
